US08242130B2
Salicylamide (6.85 g, 50 mmol) and 4-acetoxybenzoyl chloride (10.9 g, 55 mmol) were dissolved in 35 mL anhydrous xylene. Anhydrous pyridine (0.5 mL) was added and the reaction mixture was refluxed under nitrogen for 12 h. Water was removed by a Dean-Stark apparatus. The mixture was cooled to rt, and the xylene was removed under vacuum. Acetone (100 mL) was added and the mixture was stirred for 10 min. The solid was filtered off, washed with acetone and dried under vacuum to give the crude compound (3.0 g). The crude compound (1.5 g) was purified by column chromatography (SilicaGel 70-230 mesh; 2-5% MeOH in DCM as eluent) to give 770 mg of 2-(4-hydroxyphenyl)benzo[e][1,3]oxazin-4-one (12%) as pale yellow solid. MS (ES) m/z: 240.02; Mp. 273-275° C.

reactant | Salicylamide | 50 mmol, 6.85 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | 4-acetoxybenzoyl chloride | 55 mmol, 10.9 g | C(C)(=O)OC1=CC=C(C(=O)Cl)C=C1 | C9H7ClO3
reactant | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
solvent | xylene | 35 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(4-hydroxyphenyl)benzo[e][1,3]oxazin-4-one | 770 mg, 12% | OC1=CC=C(C=C1)C=1OC2=C(C(N1)=O)C=CC=C2 | C14H9NO3
